US04395406
(a) 5-chloro-6-methyl-4-thiouracil
5-Chloro-6-methyluracil (prepared as described in Johnson, B. T. J. Amer. Chem. Soc. 65 (1943) (1220) (0.018 mol) and phosphorus pentasulphide (0.019 mol) were heated together in refluxing dioxan (200 ml) for 45 min. The hot reaction mixture was then filtered and the cold filtrate concentrated and diluted with ether. The participate collected after a few hours in the cold, was recrystallised from water; yield 75% m.p. 297°-300° C. (decomp.); (Found: C, 32.69; H, 3.96. Calc. for C5H5ClN2OS.1/2H2O: C, 32.35; H, 3.25).

reactant | 5-Chloro-6-methyluracil | ClC=1C(NC(NC1C)=O)=O | C5H5ClN2O2
reactant | phosphorus pentasulphide | 0.019 mol | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | dioxan | 200 ml | O1CCOCC1 | C4H8O2
product | 5-chloro-6-methyl-4-thiouracil | yield 75% | ClC=1C(NC(NC1C)=O)=S | C5H5ClN2OS
